24
M4 0 1 2 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M5 0 3 4 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M6 0 5 6 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M1 7 8 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M2 9 10 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M2 11 12 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M10 0 13 14 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M11 0 15 16 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M12 0 17 18 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M7 19 20 0 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M8 21 22 0 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M9 23 24 0 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
V0013 0 13 1 0 2
V0014 0 14 0 0 10
V0015 0 15 1 0 2
V0016 0 16 0 0 0.5
V0017 0 17 1 0 0.5
V0018 0 18 0 0 10
V0020 0 20 1 0 2
V0019 0 19 0 0 10
V0022 0 22 1 0 2
V0021 0 21 0 0 0.5
V0024 0 24 1 0 0.5
V0023 0 23 0 0 10
V0100 1 0 1 0 2
V0200 2 0 0 0 10
V0300 3 0 1 0 2
V0400 4 0 0 0 0.5
V0500 5 0 1 0 0.5
V0600 6 0 0 0 10
V0800 8 0 1 0 2
V0700 7 0 0 0 10
V1000 10 0 1 0 2
V0900 9 0 0 0 0.5
V1200 12 0 1 0 0.5
V1100 11 0 0 0 10
.AC DEC 10 1000 1E9
